US04666923
(d) 3,3-Dimethyl-5-nitroindolin-2-one
A solution of 22 ml. fuming nitric acid in 200 ml. 80% sulphuric acid is added dropwise, with cooling, to a solution of 100 g. (0.62 mol) 3,3-dimethylindolin-2-one in 500 ml. 80% sulphuric acid. The reaction mixutre is then stirred for about 30 minutes, poured on to ice, filtered with suction, washed with water and dried. Yield: 100 g. (78% of theory); m.p. 192°-196° C. (ethyl acetate/heptane).

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 3,3-dimethylindolin-2-one | 0.62 mol | CC1(C(NC2=CC=CC=C12)=O)C | C10H11NO
product | 3,3-Dimethyl-5-nitroindolin-2-one | CC1(C(NC2=CC=C(C=C12)[N+](=O)[O-])=O)C | C10H10N2O3
